US09359311B2
2-(Thiophen-3-yl)ethyl methanesulfonate (Intermediate I)
Methylsulfonyl chloride (2.22 ml, 28.75 mmol) was added dropwise to a solution of 3-thiopheneethanol (2.46 g, 19.2 mmol) and Et3N (5.3 ml) in DCM (50 ml) as 0° C. The mixture was stirred for 15 min before DCM and water was added. Organic phase was separated and residue purified by flash chromatography using 20-25% EtOAc in iso-hexane as eluents. Yield: 3.93 g (99%); colourless oil. HPLC: RT=2.20 min, 96% (254 nm, 10-90% MeCN in 0.1% TFA, 3 min ACE). 1H NMR (400 MHz, CDCl3): δ 2.90 (s, 3H), 3.13 (t, J 6.8 Hz, 2H), 4.44 (t, J 6.8 Hz, 2H), 7.00-7.02 (m, 1H), 7.11-7.12 (m, 1H), 7.32-7.36 m, 1H).

reactant | Methylsulfonyl chloride | 28.75 mmol, 2.22 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-thiopheneethanol | 19.2 mmol, 2.46 g | S1C=C(C=C1)CCO | C6H8OS
reactant | Et3N | 5.3 ml | CCN(CC)CC | C6H15N
reactant | water | O | H2O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(Thiophen-3-yl)ethyl methanesulfonate | CS(=O)(=O)OCCC1=CSC=C1 | C7H10O3S2
